US04695575
To a stirred mixture of 8 parts of N-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2-(methylamino)benzamide, 13 parts of N,N-diethylethanamine and 130 parts of dichloromethane was added dropwise a solution of 2.3 parts of carbonothioic dichloride in dichloromethane. Upon completion, stirring was continued for 2 hours. The reaction mixture was evaporated. The residue was crystallized from a mixture of methanol and ethanol. The product was filtered off and boiled in methanol. The product was filtered off and dried, yielding 3 parts (34.3%) of 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2,3-dihydro-1-methyl-2-thioxo-4(1H)-quinazolinone; mp. 169.2° C. (486).

reactant | N-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2-(methylamino)benzamide | O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCNC(C2=C(C=CC=C2)NC)=O | C27H32N6O2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | carbonothioic dichloride | C(=S)(Cl)Cl | CCl2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[2-[4-[[3-(2-furanylmethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2,3-dihydro-1-methyl-2-thioxo-4(1H)-quinazolinone | 34.3% | O1C(=CC=C1)CN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCN2C(N(C1=CC=CC=C1C2=O)C)=S | C28H30N6O2S
